US08431607B2
3-(Trifluoromethyl)styrene (1.70 mL, 11.5 mmol) is added to a mixture of iodine (0.29 g, 1.15 mmol) and Chloramine-T (3.12 g, 11.5 mmol) in acetonitrile (35 mL). The reaction mixture is stirred at room temperature under a nitrogen atmosphere overnight, then taken in H2O (200 mL) and extracted with CH2Cl2 (3×100 mL). The combined organic layer is washed with brine, dried over MgSO4, concentrated and purified by silica gel chromatography (0˜20% EtOAc/Hexanes) to provide 1-tosyl-2-(3-(trifluoromethyl)phenyl)aziridine (3.44 g, 88% yield) as a colorless oil product.

reactant | 3-(Trifluoromethyl)styrene | 11.5 mmol, 1.70 mL | FC(C=1C=C(C=C)C=CC1)(F)F | C9H7F3
reactant | iodine | 1.15 mmol, 0.29 g | II | I2
reactant | Chloramine-T | 11.5 mmol, 3.12 g | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | H2O | 200 mL | O | H2O
product | 1-tosyl-2-(3-(trifluoromethyl)phenyl)aziridine | 3.44 g, 88% yield | S(=O)(=O)(C1=CC=C(C)C=C1)N1C(C1)C1=CC(=CC=C1)C(F)(F)F | C16H14F3NO2S
